US07399759B2
3-[6-(7-Chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionic acid
tert-Butyl 3-[6-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate (0.60 g, 1.5 mmol) was dissolved in trifluoroacetic acid (5 ml), and the mixture was stirred at 0° C. for 2 hrs. The solvent was evaporated and the residue was crystallized from diisopropyl ether to give the titled compound (0.49 g, 96%) as white crystals.

reactant | tert-Butyl 3-[6-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | 1.5 mmol, 0.60 g | ClC1=CC2=C(C(N=C(S2)C2=CC=CC(=N2)CCC(=O)OC(C)(C)C)=O)C=C1 | C20H19ClN2O3S
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[6-(7-Chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionic acid | 0.49 g, 96% | ClC1=CC2=C(C(N=C(S2)C2=CC=CC(=N2)CCC(=O)O)=O)C=C1 | C16H11ClN2O3S
